US07491735B2
Using general procedure C with 4-[(6-chloro-pyridin-2-yloxy)-(4-cyano-phenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (236 mg, 0.55 mmol), then general procedure B with the resulting amine and 2-(3-oxo-butyl)-isoindole-1,3-dione (203 mg, 0.93 mmol) and then using general procedure D afforded 4-[[1-(3-amino-1-methyl-propyl)-piperidin-4-yl]-(6-chloro-pyridin-2-yloxy)-methyl]-benzonitrile as a colourless syrup (65 mg, 37% over 3 steps).

reactant | 4-[(6-chloro-pyridin-2-yloxy)-(4-cyano-phenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.55 mmol, 236 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)C#N)OC1=NC(=CC=C1)Cl | C23H26ClN3O3
reactant | 2-(3-oxo-butyl)-isoindole-1,3-dione | 0.93 mmol, 203 mg | O=C(CCN1C(C2=CC=CC=C2C1=O)=O)C | C12H11NO3
product | 4-[[1-(3-amino-1-methyl-propyl)-piperidin-4-yl]-(6-chloro-pyridin-2-yloxy)-methyl]-benzonitrile | NCCC(C)N1CCC(CC1)C(C1=CC=C(C#N)C=C1)OC1=NC(=CC=C1)Cl | C22H27ClN4O
